US04161476
77 ml of 2N hydrochloric acid are added slowly, with stirring and cooling to 10°-13° (ice-water bath), to a mixture of 15 g of 1-cyclohexyl-3-(triphenylphosphoranylidene-hydrazono-acetone and 7.37 g of sodium nitrite in 120 ml of tetrahydrofuran and 42 ml of water. After another 30 minutes at room temperature the organic solution is separated and the aqueous phase is extracted with methylene chloride. The combined organic solutions are dried over sodium sulphate and evaporated under reduced pressure. The syrupy residue is treated with ether, the resulting triphenyl phosphinoxide is filtered off and the filtrate is evaporated. The residue is chromatographed on a column of 120 g of acid-washed silica gel, elution being carried out with about 3000 ml of a 97:3-mixture of hexane and ethyl acetate to yield the cyclohexylmethyl-glyoxal hydrate as a syrupy product; infra-red absorption spectrum (in methylene chloride): characteristic bands at 2.90-4.1μ (broad); 3.47μ, 3.53μ and 5.80μ; the product is further processed without purification.

reactant | hydrochloric acid | 2N, 77 ml | Cl | ClH
reactant | triphenylphosphoranylidene-hydrazono-acetone | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)C=NN | C21H19N2OP
reactant | sodium nitrite | 7.37 g | N(=O)[O-].[Na+]
reactant | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | water | 42 ml | O | H2O
product | cyclohexylmethyl-glyoxal hydrate | O.C1(CCCCC1)CC(=O)C=O | InChI=1S/C9H14O2.H2O/c10-7-9(11)6-8-4-2-1-3-5-8;/h7-8H,1-6H2;1H2
